US07807673B2
The title compound was synthesized from 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-{[3-(4-morpholinyl)propyl]oxy}phenyl)-2-pyrimidinamine using acylation with 2-thienylacetyl chloride as described in Example 10, Step E to yield a light brown solid in 37% yield. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.8 (d, J=1.1 Hz, 2H) 2.3 (s, 6H) 3.5 (d, J=4.6 Hz, 4H) 3.9 (s, 2H) 3.9 (m, 2H) 6.5 (m, 2H) 7.0 (m, 2H) 7.1 (m, 2H) 7.3 (dt, J=7.6, 1.4 Hz, 2H) 7.4 (m, 3H) 7.5 (t, J=2.1 Hz, 1H) 7.7 (d, J=1.8 Hz, 1H) 7.9 (t, J=1.8 Hz, 1H) 8.2 (d, J=5.3 Hz, 1H) 8.5 (d, J=8.6 Hz, 1H) 8.8 (m, 1H) 9.5 (s, 1H) 10.3 (s, 1H). ES-LC/MS m/z 646 [M+H]+.

reactant | 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-{[3-(4-morpholinyl)propyl]oxy}phenyl)-2-pyrimidinamine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)OCCCN1CCOCC1 | C30H31N7O2
reactant | 2-thienylacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | N-[3-(3-{2-[(3-{[3-(4-Morpholinyl)propyl]oxy}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-(2-thienyl)acetamide | 37% yield | N1(CCOCC1)CCCOC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C36H35N7O3S
